US07129238B2
(RS)-(4-Benzyloxy-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile to give (RS)-2-(4-benzyloxy-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide according to general procedure B. Colorless solid. MS 387.3 ([M+H]+)

reactant | (RS)-(4-Benzyloxy-phenyl)-methoxy-acetic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)O)OC | C16H16O4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-(4-benzyloxy-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C(=O)NCC1=CC=C(C=C1)C#N)OC | C24H22N2O3
